US07713979B2
3-[1-(2,4-Dichloro-phenyl)-1-methyl-ethyl]-1-(trans-4-hydroxy-cyclohexyl)-pyrrolidin-2-one
Dissolve 3-(2,4-Dichloro-phenyl)-3-methyl-2-(2-oxo-ethyl)-butyric acid ethyl ester (Preparation 61) in THF and treat with trans-4-Amino-cyclohexan-1-ol (2.0 eq), acetic acid (6.0 eq) and NaBH(OAc)3 (4.0 eq). Allow reaction to stir at room temperature for 17 h and heat to 60° C. for six hours. Cool to room temperature, filter, dilute filtrate with EtOAc, wash with 0.1 N HCl, brine, dry over sodium sulfate and filter. Chromatography (silica, 1:1 to 3:7 hexanes/EtoAc) yields the titled compound in 53% yield: Mass spectrum (API-ES positive) m/z=372.0 (M+H).

reactant | 3-(2,4-Dichloro-phenyl)-3-methyl-2-(2-oxo-ethyl)-butyric acid ethyl ester | C(C)OC(C(C(C)(C)C1=C(C=C(C=C1)Cl)Cl)CC=O)=O | C15H18Cl2O3
reactant | trans-4-Amino-cyclohexan-1-ol | 2.0 eq | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | acetic acid | 6.0 eq | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 4.0 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-[1-(2,4-Dichloro-phenyl)-1-methyl-ethyl]-1-(trans-4-hydroxy-cyclohexyl)-pyrrolidin-2-one | 53% yield | ClC1=C(C=CC(=C1)Cl)C(C)(C)C1C(N(CC1)[C@@H]1CC[C@H](CC1)O)=O | C19H25Cl2NO2
